US08835422B2
To a solution of 2-(3,4-difluorobenzamido)acetic acid (5.18 g, 24.1 mmol) in THF (25 mL) in a 100 mL round-bottomed flask was added 4-methylmorpholine (2.44 g, 24.1 mmol) to give a colorless solution. The solution was cooled to −10° C. and methyl chloroformate (2.28 g, 24.1 mmol) was added slowly over the course of thirty minutes while maintaining the solution at −10° C. A white precipitate started to form almost immediately and the solution became increasingly orange in color. Once the addition of chloroformate was complete the solution was stirred at −10° C. for 1 hour and warmed to room temperature over the course of an hour. The solution was filtered through a glass frit and the remaining solid was washed thoroughly with THF until colorless. The combined filtrate was evaporated under reduced pressure to provide 2-(3,4-difluoro-phenyl)oxazol-5(4H)-one as a light orange solid (4.5 g, 95%). LCMS (+ESI) m/z 198.2 [M+H]+. 1H-NMR (CDCl3) δ 7.85 (m, 1H), 7.78 (m, 1H), 7.30 (m, 1H), 4.45 (s, 2H).

reactant | 2-(3,4-difluorobenzamido)acetic acid | 24.1 mmol, 5.18 g | FC=1C=C(C(=O)NCC(=O)O)C=CC1F | C9H7F2NO3
reactant | 4-methylmorpholine | 24.1 mmol, 2.44 g | CN1CCOCC1 | C5H11NO
reactant | methyl chloroformate | 24.1 mmol, 2.28 g | ClC(=O)OC | C2H3ClO2
reactant | chloroformate | ClC(=O)[O-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-(3,4-difluoro-phenyl)oxazol-5(4H)-one | 4.5 g, 95% | FC=1C=C(C=CC1F)C=1OC(CN1)=O | C9H5F2NO2
